US06538000B1
9-(3,4-Difluorophenyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one
1,3-Cyclohexanedione, 3,4-difluorobenzaldehyde and 3-aminopyrazole were processed as described in General Procedure A to provide the title compound.

reactant | 1,3-Cyclohexanedione | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 9-(3,4-Difluorophenyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one | FC=1C=C(C=CC1F)C1N2C(NC=3CCCC(C13)=O)=CC=N2 | C16H13F2N3O
